US05238953
The 1-[4-1H-imidazol-1-yl)benzyl]-1-(4-fluorophenyl)hydrazine hydrochloride used above is prepared as follows: a mixture of 1-(4-fluorophenyl)hydrazine hydrochloride (3.3 g), 1-[4-(chloromethyl)phenyl]-1H-imidazole hydrochloride (3.1 g), triethylamine (6.6 ml) and toluene (200 ml) is refluxed under nitrogen for 13 hours. After cooling the mixture is filtered and the solution is evaporated to dryness. The residue is purified through a silica gel column eluiting with methylene chloride/methanol (100/5) to give 2.0 g of 1-[(4-1H-imidazol-1-yl)benzyl]-1-(4-fluorophenyl)hydrazine hydrochloride, ms: m/e 282 (M+), 158,157.

reactant | 1-(4-fluorophenyl)hydrazine hydrochloride | Cl.FC1=CC=C(C=C1)NN
reactant | 1-(4-fluorophenyl)hydrazine hydrochloride | 3.3 g | Cl.FC1=CC=C(C=C1)NN
reactant | 1-[4-(chloromethyl)phenyl]-1H-imidazole hydrochloride | 3.1 g | Cl.ClCC1=CC=C(C=C1)N1C=NC=C1
reactant | triethylamine | 6.6 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(4-1H-imidazol-1-yl)benzyl]-1-(4-fluorophenyl)hydrazine hydrochloride | 2.0 g | Cl.N1(C=NC=C1)C1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C16H15FN4.ClH/c17-14-3-7-16(8-4-14)21(18)11-13-1-5-15(6-2-13)20-10-9-19-12-20;/h1-10,12H,11,18H2;1H
